US08470835B2
Methanesulfonyl chloride (30 ml) in DCM (100 ml) was added dropwise to a solution of 1,5-an hydro-2,4-dideoxy-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-L-threo-pentitol (75 g) and triethylamine (58 ml) in DCM (900 ml) at 0° C., maintaining the temperature below 3° C. during the addition. The mixture was stirred for 30 min, warmed to 25° C. and stirred for 2 h. The reaction mixture was washed with water (2×1.4 l), the organic phase dried and the solvent evaporated to give 1,5-anhydro-2,4-dideoxy-2-({[(1,1-dimethylethy)oxy]carbonyl}amino)-3-O-(methylsulfonyl)-L-threo-pentitol (103.1 g).

reactant | Methanesulfonyl chloride | 30 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,5-an hydro-2,4-dideoxy-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-L-threo-pentitol | 75 g | CC(C)(C)OC(=O)N[C@H]1COCC[C@@H]1O | C10H19NO4
reactant | triethylamine | 58 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 900 ml | C(Cl)Cl | CH2Cl2
product | 1,5-anhydro-2,4-dideoxy-2-({[(1,1-dimethylethy)oxy]carbonyl}amino)-3-O-(methylsulfonyl)-L-threo-pentitol | 103.1 g | CC(C)(C)OC(=O)N[C@H]1COCC[C@@H]1OS(=O)(=O)C | C11H21NO6S
